US09302998B2
STEP D: [3-(2,4-bis-benzyloxy-5-isopropyl-phenyl)-3H-[1,2,3]triazol-4-yl]-(4-morpholin-4-yl-phenyl)-carbamic acid tert-butyl ester
A solution of 1,5-bis-benzyloxy-2-isopropyl-4-azido-benzene (373 mg, 1 mmol) and ethynyl-(4-morpholin-4-yl-phenyl)-carbamic acid t-butyl ester (275 mg, 0.91 mmol) in DMF (2.5 ml) was flushed with nitrogen three times as previously described before adding [Cp*Ru]4 (49 mg, 0.045 mmol) and repeating the three cycle-degassing with nitrogen. The reaction mixture was stirred at RT until completion (i.e., monitored by TLC). AcOEt and H2O were then added. The organic phase was extracted four times with AcOEt, washed with water (three times) and brine (once) and dried over Na2SO4. The solvent was removed under reduced pressure and the reaction mixture was purified by column chromatography (PE/AcOEt:60/40). The title compound was obtained as an oil.

reactant | 1,5-bis-benzyloxy-2-isopropyl-4-azido-benzene | 1 mmol, 373 mg | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)N=[N+]=[N-])C(C)C | C23H23N3O2
reactant | ethynyl-(4-morpholin-4-yl-phenyl)-carbamic acid t-butyl ester | 0.91 mmol, 275 mg | C(C)(C)(C)OC(N(C1=CC=C(C=C1)N1CCOCC1)C#C)=O | C17H22N2O3
reactant | AcOEt | CCOC(=O)C | C4H8O2
reactant | H2O | O | H2O
solvent | DMF | 2.5 ml | CN(C)C=O | C3H7NO
product | [3-(2,4-bis-benzyloxy-5-isopropyl-phenyl)-3H-[1,2,3]triazol-4-yl]-(4-morpholin-4-yl-phenyl)-carbamic acid tert-butyl ester | Yield: 62% | C(C)(C)(C)OC(N(C1=CC=C(C=C1)N1CCOCC1)C=1N(N=NC1)C1=C(C=C(C(=C1)C(C)C)OCC1=CC=CC=C1)OCC1=CC=CC=C1)=O | C40H45N5O5
